US07504508B2
(2S,4R)-N-(4-Chloro-phenyl)-N-{2-methyl-1-[4-(3-pyrrol-1-yl-propoxy)-benzoyl]-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide (H-108)
(2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (75 mg, 0.17 mmol) was dissolved in DMF (1 mL) at room temperature. K2CO3 (47 mg, 0.34 mmol) was added followed by 1-(3-bromopropyl)-pyrrole and the reaction was allowed to stir at 70° C. for 3 hrs. The reaction mixture was concentrated in vacuo. The residue was partitioned between ethyl acetate and water, then extracted three times with ethyl acetate. Organic layers were washed with brine, dried over MgSO4, filtered and concentrated down. The crude residue was purified by silica gel chromatography (1/1 ethyl acetate/hexanes) to afford the product.

reactant | (2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | 0.17 mmol, 75 mg | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)O)=O)C | C25H23ClN2O3
reactant | K2CO3 | 0.34 mmol, 47 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(3-bromopropyl)-pyrrole | BrCCCN1C=CC=C1 | C7H10BrN
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-N-(4-Chloro-phenyl)-N-{2-methyl-1-[4-(3-pyrrol-1-yl-propoxy)-benzoyl]-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OCCCN1C=CC=C1)=O)C | C32H32ClN3O3
